### PR TITLE
[Merged by Bors] - feat: a continuous meromorphic function is analytic

### PR DESCRIPTION
**Pull request by sgouezel**
We also characterize the order of a meromorphic function being `< 0`, or `= 0`, or `> 0`, as the convergence of the function
to infinity, resp. a nonzero constant, resp. zero.

This is used to generalize `analyticAt_mem_codiscreteWithin`, and from there remove completeness assumptions throughout the meromorphic functions theory.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 1]
```diff
@@ -171,7 +171,7 @@ theorem MeromorphicNFAt.order_eq_zero_iff (hf : MeromorphicNFAt f x) :
 /-- **Local identity theorem**: two meromorphic functions in normal form agree in a
 neighborhood iff they agree in a pointed neighborhood.
 
-See `ContinuousAt.eventuallyEq_nhdNE_iff_eventuallyEq_nhd` for the analogous
+See `ContinuousAt.eventuallyEq_nhd_iff_eventuallyEq_nhdNE` for the analogous
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean:174]: Good catch! I wonder, though (pre-existing): shouldn't the lemma be named using `nbhd` instead of `nhd`?

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 2]
```diff
@@ -325,9 +363,50 @@ theorem order_ne_top_of_isPreconnected {y : 𝕜} (hU : IsPreconnected U) (h₁x
...
+  · filter_upwards [self_mem_nhdsWithin] with y hy using Or.inr hy
+
+/-- Meromorphic functions on `U` are analytic on `U`, outside of a discrete subset. -/
+theorem analyticAt_mem_codiscreteWithin (hf : MeromorphicOn f U) :
+    { x | AnalyticAt 𝕜 f x } ∈ Filter.codiscreteWithin U := by
+  rw [mem_codiscreteWithin]
+  intro x hx
+  rw [Filter.disjoint_principal_right, ← Filter.eventually_mem_set]
+  filter_upwards [hf.eventually_analyticAt_or_mem_compl hx] with y hy
+  simp
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/Order.lean:404]: Non-terminal simp

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 3]
```diff
@@ -240,6 +240,44 @@ theorem order_add_of_unequal_order (hf₁ : MeromorphicAt f₁ x) (hf₂ : Merom
...
+    AnalyticAt 𝕜 f x := by
+  cases ho : h.order with
+  | top =>
+    have : AnalyticAt 𝕜 (fun _ ↦ (0 : E)) x := analyticAt_const
+    apply this.congr
+    rw [← ContinuousAt.eventuallyEq_nhd_iff_eventuallyEq_nhdNE continuousAt_const h']
+    filter_upwards [h.order_eq_top_iff.1 ho] with y hy using by simp [hy]
+  | coe n =>
+    rcases h.order_eq_int_iff.1 ho with ⟨g, g_an, gx, hg⟩
+    have : 0 ≤ n := by
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/Order.lean:254]: Would a brief comment of the argument be helpful here? Or can it be usefully extracted into a separate lemma? (My intuition is yes: then doing so would be helpful.)

Comment (grunweg) [reply Mathlib/Analysis/Meromorphic/Order.lean:254]: (Aside: `MeromorphicAt.order_eq_nat_iff` does not exist, but a doc-string mentions this.)

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 4]
```diff
@@ -325,9 +363,50 @@ theorem order_ne_top_of_isPreconnected {y : 𝕜} (hU : IsPreconnected U) (h₁x
...
+theorem eventually_analyticAt {f : 𝕜 → E} {x : 𝕜}
+    (h : MeromorphicOn f U) (hx : x ∈ U) : ∀ᶠ y in 𝓝[U \ {x}] x, AnalyticAt 𝕜 f y := by
+  rcases h x hx with ⟨n, g, r, hgr⟩
+  have : U \ {x} ∩ EMetric.ball x r ∈ 𝓝[U \ {x}] x :=
+    inter_mem_nhdsWithin _ (EMetric.ball_mem_nhds _ hgr.r_pos)
+  filter_upwards [this] with y ⟨hy, h'y⟩
+  have hyx : y ≠ x := by simpa using hy.2
+  have : ContinuousAt f y := by
+    have A : ContinuousAt (fun z ↦ (z - x) ^ n • f z) y := by
+      apply hgr.continuousOn.continuousAt
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/Order.lean:375]: Feel free to combine these into one line - if you prefer.

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 5]
```diff
@@ -325,9 +363,50 @@ theorem order_ne_top_of_isPreconnected {y : 𝕜} (hU : IsPreconnected U) (h₁x
...
+      exact EMetric.isOpen_ball.mem_nhds h'y
+    have B : ContinuousAt (fun z ↦ (z - x) ^ (-(n : ℤ))) y := by
+      apply ContinuousAt.zpow₀ (by fun_prop)
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/Order.lean:378]: Here also

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 6]
```diff
@@ -325,9 +363,50 @@ theorem order_ne_top_of_isPreconnected {y : 𝕜} (hU : IsPreconnected U) (h₁x
...
-order is discrete within its domain of meromorphicity. -/
-theorem codiscrete_setOf_order_eq_zero_or_top [CompleteSpace E] :
+theorem eventually_analyticAt {f : 𝕜 → E} {x : 𝕜}
+    (h : MeromorphicOn f U) (hx : x ∈ U) : ∀ᶠ y in 𝓝[U \ {x}] x, AnalyticAt 𝕜 f y := by
+  rcases h x hx with ⟨n, g, r, hgr⟩
+  have : U \ {x} ∩ EMetric.ball x r ∈ 𝓝[U \ {x}] x :=
+    inter_mem_nhdsWithin _ (EMetric.ball_mem_nhds _ hgr.r_pos)
+  filter_upwards [this] with y ⟨hy, h'y⟩
+  have hyx : y ≠ x := by simpa using hy.2
+  have : ContinuousAt f y := by
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/Order.lean:373]: I'm not sure if extracting this into a separate lemma would be useful: what do you think?

**Review by grunweg — COMMENTED** [review]
Thanks, looks great!
I just have a few questions about further clean-up. One of them is: can you generalise MeromorphicAt.eventually_analyticAt by just removing completeness? (If not, can you add a doc-string there to point to `eventually_analyticAt_or_mem_compl`, and perhaps vice versa?)

File: Mathlib/Analysis/Meromorphic/NormalForm.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Analysis/Meromorphic/NormalForm.lean:174]: Yes. And also I'd like the continuousAt and the meromorphicAt to be phrased in the same way (currently, the sides are reversed). This will be for another PR, though.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Analysis/Meromorphic/Order.lean:404]: It's followed by `tauto`, which is flexible as far as I can tell.

File: Mathlib/Analysis/Meromorphic/NormalForm.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/Meromorphic/NormalForm.lean:174]: I'll be happy to approve such a mechanical clean-up PR

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Analysis/Meromorphic/Order.lean:436]: If the flexible linter is happy, so am I!

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 7]
```diff
@@ -87,6 +87,34 @@ lemma order_eq_int_iff {n : ℤ} (hf : MeromorphicAt f x) : hf.order = n ↔
...
+        · filter_upwards [self_mem_nhdsWithin] with y hy
+          simpa [sub_eq_zero] using hy
+      apply Tendsto.comp (NormedField.tendsto_norm_zpow_nhdsNE_zero_atTop m_neg) this
+    apply A.congr'
+    filter_upwards [hg] with z hz using by simp [hz]
+  · simp only [lt_iff_not_ge, ge_iff_le, h'f, not_true_eq_false, false_iff]
+
+
+
+#exit
```
Comment (kebekus) [inline Mathlib/Analysis/Meromorphic/Order.lean:116]: I am unsure what to make of this `#exit`. Is this on purpose, or did the line enter by mistake?

Comment (sgouezel) [reply Mathlib/Analysis/Meromorphic/Order.lean]: The PR is not in a ready to review state, sorry!

Comment (sgouezel) [reply Mathlib/Analysis/Meromorphic/Order.lean]: The PR was ready when I asked for your review yesterday, but then Michael made some very good comments that I could add some lemmas to make it better, so I am working on the changes right now, and the PR is currently a mess. When it's clean again (hopefully in a few hours), I'll remove the `awaiting-author` tag.

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 8]
```diff
@@ -87,6 +87,34 @@ lemma order_eq_int_iff {n : ℤ} (hf : MeromorphicAt f x) : hf.order = n ↔
     exact ⟨fun h ↦ ⟨g, hg_an, hg_ne, h ▸ hg_eq⟩,
       AnalyticAt.unique_eventuallyEq_zpow_smul_nonzero ⟨g, hg_an, hg_ne, hg_eq⟩⟩
 
+lemma order_neg_iff_tendsto_cobounded (hf : MeromorphicAt f x) :
```
Comment (kebekus) [inline Mathlib/Analysis/Meromorphic/Order.lean]: I believe this lemma will be useful in a variety of settings, but as a relative newcomer to lean, I had to sit down and think what it actually says. Personally, I would greatly appreciate a docstring to help the reader.

Comment (sgouezel) [reply Mathlib/Analysis/Meromorphic/Order.lean]: Hopefully all this is already better in the current version, with docstrings and everything.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Order.lean]: Roger. I will wait for the removal of `awaiting-author` then. See you in a while!

Comment (sgouezel) [reply Mathlib/Analysis/Meromorphic/Order.lean]: The PR is ready. Thanks for waiting!

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 8 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Order.lean]: Agreed.

**Review by kebekus — APPROVED** [review]
I believe this is a very valuable contribution. As far as I can tell, code and documentation look perfect to me. Thanks!

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 9]
```diff
@@ -87,6 +90,115 @@ lemma order_eq_int_iff {n : ℤ} (hf : MeromorphicAt f x) : hf.order = n ↔
...
+lemma tendsto_cobounded_iff_order_neg (hf : MeromorphicAt f x) :
+    Tendsto f (𝓝[≠] x) (Bornology.cobounded E) ↔ hf.order < 0 := by
+  rcases lt_or_le hf.order 0 with ho | ho
+  · simp [ho, hf.tendsto_cobounded_of_order_neg]
+  · simp only [lt_iff_not_le, ho, not_true_eq_false, iff_false, ← tendsto_norm_atTop_iff_cobounded]
+    obtain ⟨c, hc⟩ := hf.tendsto_nhds_of_order_nonneg ho
+    exact not_tendsto_atTop_of_tendsto_nhds hc.norm
+
+/-- A meromorphic function converges to a limit iff its is order if nonnegative. -/
+lemma tendsto_nhds_iff_order_nonneg (hf : MeromorphicAt f x) :
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/Order.lean:163]: Reading some of these proofs makes me think the de Bruijn factor of formalisation is still too high. But that's not a fault of your proofs.

**Review by grunweg — COMMENTED** [review]
Looks very nice, thanks! These proofs are quite readable, even in github. Sometimes, I wish for even better tactics to allow shortening this even more, but that's absolutely out of scope here.
maintainer merge

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 10]
```diff
@@ -87,6 +90,115 @@ lemma order_eq_int_iff {n : ℤ} (hf : MeromorphicAt f x) : hf.order = n ↔
...
+/-- A meromorphic function converges to infinity iff its order is negative. -/
+lemma tendsto_cobounded_iff_order_neg (hf : MeromorphicAt f x) :
+    Tendsto f (𝓝[≠] x) (Bornology.cobounded E) ↔ hf.order < 0 := by
+  rcases lt_or_le hf.order 0 with ho | ho
+  · simp [ho, hf.tendsto_cobounded_of_order_neg]
+  · simp only [lt_iff_not_le, ho, not_true_eq_false, iff_false, ← tendsto_norm_atTop_iff_cobounded]
+    obtain ⟨c, hc⟩ := hf.tendsto_nhds_of_order_nonneg ho
+    exact not_tendsto_atTop_of_tendsto_nhds hc.norm
+
+/-- A meromorphic function converges to a limit iff its is order if nonnegative. -/
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Order.lean:162]:
```suggestion
/-- A meromorphic function converges to a limit iff its order is nonnegative. -/
```

**Review by jcommelin — COMMENTED** [review]
bors d+
